US06831106B1
(b) Methyl {3-[3,4-bis(benzoyloxymethyl)-benzyloxy]biphenyl-3-yl}acetate
In a manner similar to that of Example 1(i), by reaction of 1 g (4.1 mmol) of methyl (3′-hydroxybiphenyl-3-yl)acetate with 2 g (4.5 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide, 2.2 g (91%) of methyl {3′-[3,4-bis(benzoyloxymethyl)benzyloxy]-biphenyl-3-yl}acetate are obtained.

reactant | methyl (3′-hydroxybiphenyl-3-yl)acetate | 4.1 mmol, 1 g | OC=1C=C(C=CC1)C1=CC(=CC=C1)CC(=O)OC | C15H14O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 4.5 mmol, 2 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | methyl {3′-[3,4-bis(benzoyloxymethyl)benzyloxy]-biphenyl-3-yl}acetate | 2.2 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(COC=2C=C(C=CC2)C2=CC(=CC=C2)CC(=O)OC)C=CC1COC(C1=CC=CC=C1)=O | C38H32O7
product | Methyl {3-[3,4-bis(benzoyloxymethyl)-benzyloxy]biphenyl-3-yl}acetate | C(C1=CC=CC=C1)(=O)OCC=1C=C(COC2(CC(=CC=C2)C2=CC=CC=C2)CC(=O)OC)C=CC1COC(C1=CC=CC=C1)=O | C38H34O7
